US07129232B2
To a suspension of 1,1′-carbonyldiimidazole (973 mg) in methylene chloride (10 ml) was added O-[2-(tert-butoxycarbonylamino)ethyl]hydroxylamine (1.11 g) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture were added N-ethyldiisopropylamine (1.28 g) and 4,5-diamino-1-methylpyrazole sulfuric acid salt (1.05 g), and the mixture was stirred under reflux for 4 hours. The reaction mixture was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 10% methanol/chloroform to give 5-amino-4-(3-{2-[(tert-butoxycarbonyl)amino]ethoxy}ureido)-1-methylpyrazole (255 mg) as a solid.

reactant | 1,1′-carbonyldiimidazole | 973 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O-[2-(tert-butoxycarbonylamino)ethyl]hydroxylamine | 1.11 g | C(C)(C)(C)OC(=O)NCCON | C7H16N2O3
reactant | N-ethyldiisopropylamine | 1.28 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4,5-diamino-1-methylpyrazole sulfuric acid salt | 1.05 g | S(O)(O)(=O)=O.NC=1C=NN(C1N)C
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-amino-4-(3-{2-[(tert-butoxycarbonyl)amino]ethoxy}ureido)-1-methylpyrazole | 255 mg | NC1=C(C=NN1C)NC(=O)NOCCNC(=O)OC(C)(C)C | C12H22N6O4
